US07220856B2
Preparation of 4-[[[4-(7-Chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-1H-azepine-1-carboxylic Acid, 1,1-dimethylethyl Ester
As described for example 78, 4-amino-N-1-Boc-azepine, p-nitrophenyl chloroformate, diisopropylethyl amine and 7-chloro-4-piperazinylquinoline are reacted to afford the title product. LC-MS: 488 (M++1). 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.05 (s, 1H), 7.96 (d, 1H), 7.45 (d, 1H), 6.85 (d, 1H), 4.55 (m, 1H), 4.05 (m, 1H), 3.90 (m, 1H), 3.60 (m, 4H), 3.30 (m, 1H), 3.20 (m, 4H), 3.10 (m, 2H), 2.10 (m, 1H), 1.60–1.90 (m, 3H), 1.50 (s, 9H).

reactant | 4-amino-N-1-Boc-azepine | CC(C)(C)OC(=O)N1CCCC(CC1)N | C11H22N2O2
reactant | p-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-piperazinylquinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 4-[[[4-(7-Chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-1H-azepine-1-carboxylic Acid, 1,1-dimethylethyl Ester | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCN(CCC1)C(=O)OC(C)(C)C | C25H34ClN5O3
